US20010049379A1
B. 4-Methylnaphthalene-1-boronic Acid
To a 125 mL round-bottomed flask equipped with N2 inlet were added 1.78 g (11.4 mmol) 1-bromo-4methylnaphthalene and 20 mL dry tetrahydrofuran. The solution was cooled to −70° C., and 5.49 mL (13.7 mmol) of a 2.5M solution of n-butyl lithium in hexane was added over 5 minutes, and the reaction stirred at −70° C. for 10 minutes. The solution was then treated with 2.34 mL (13.7 mmol) triethyl borate, stirred 5 minutes at −70° C., then warmed to room temperature and stirred 40 hours. The reaction was quenched with aqueous ammonium chloride solution, poured into 0.5N hydrochloric acid, and extracted into ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, and evaporated to a white solid after trituration with hexane, mp 224°-228° C., 1.9 g (90%).

reactant | 1-bromo-4methylnaphthalene | 11.4 mmol, 1.78 g | BrC1=CC=C(C2=CC=CC=C12)C | C11H9Br
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | n-butyl lithium | C(CCC)[Li]
reactant | triethyl borate | 13.7 mmol, 2.34 mL | B(OCC)(OCC)OCC | C6H15BO3
solvent | hexane | CCCCCC | C6H14
product | 4-Methylnaphthalene-1-boronic Acid | CC1=CC=C(C2=CC=CC=C12)B(O)O | C11H11BO2
